US05068334
1,4-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione
4.46 g (0.025 mol) of 4-methyl-5,6,7,8-tetrahydro- cumarin-5-one are dissolved in a mixture of 41.9 g of liquid methylamine in 100 ml of methanol pre- cooled to -9° C., With cooling, and heated to 180° C. for 3 hours in an autoclave. After cooling the methanol and methylamine are distilled off using a rotary evaporator, the residue is chromatographed on a silica gel column using ethylene chloride/ethanol (95:5) and recrystallised from cyclohexane/ethyl acetate (1:1).

reactant | 4-methyl-5,6,7,8-tetrahydro- cumarin-5-one | 0.025 mol, 4.46 g | CC1=CC(OC=2CCCC(C12)=O)=O | C10H10O3
reactant | methylamine | CN | CH5N
solvent | methanol | 100 ml | CO | CH4O
product | 1,4-Dimethyl-7,8-dihydro-2,5(1H,6H)-quinolinedione | CN1C(C=C(C=2C(CCCC12)=O)C)=O | C11H13NO2
